US04820866
1,2-bis-(4-nitrophenoxy)-ethane
62 g (1 mol) ethylene glycol, 346.5 g (2.2 mols) 4-nitrochlorobenzene and 140 g powdered sodium hydroxide were reacted following the procedure described in Example 1 in 600 ml DMSO.

reactant | ethylene glycol | 1 mol, 62 g | C(CO)O | C2H6O2
reactant | 4-nitrochlorobenzene | 2.2 mols, 346.5 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
product | 1,2-bis-(4-nitrophenoxy)-ethane | [N+](=O)([O-])C1=CC=C(OCCOC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N2O6
